US08614327B2
A microwave vial charged with 3-tert-butyl-6-nitro-5-(trifluoromethyl)-1H-indole (95 mg, 0.3319 mmol), SnCl2.2H2O (375 mg, 1.66 mmol) and ethanol (1 mL), was sealed and heated at 62° C. for 3 h. The reaction was cooled to room temperature, diluted with EtOAc and quenched with saturated NaHCO3 solution until the pH was 7. The reaction mixture was then filtered through a plug of celite. The layers were separated and the organic layer was dried over Na2SO4, filtered and concentrated. The residue was purified via silica gel column chromatography using 0 to 40% EtOAc in hexanes to obtain 3-tert-butyl-5-(trifluoromethyl)-1H-indol-6-amine. LC/MS: m/z 257.3 (M+H)+ at 1.54 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | 3-tert-butyl-6-nitro-5-(trifluoromethyl)-1H-indole | 0.3319 mmol, 95 mg | C(C)(C)(C)C1=CNC2=CC(=C(C=C12)C(F)(F)F)[N+](=O)[O-] | C13H13F3N2O2
reactant | SnCl2.2H2O | 1.66 mmol, 375 mg | O.O.Cl[Sn]Cl
reactant | ethanol | 1 mL | C(C)O | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-tert-butyl-5-(trifluoromethyl)-1H-indol-6-amine | C(C)(C)(C)C1=CNC2=CC(=C(C=C12)C(F)(F)F)N | C13H15F3N2
